US05665718
A suspension of 1.20 g (3.14 mmol) of 7-chloro-3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one in 20 ml of N,N-dimethylformamide was treated with 1.59 g (0.0166 mol) of diisopropylamine. After stirring at 80° for 20 hrs. the solution obtained was completely freed from the solvents. The residue was chromatographed over silica gel with methylene chloride/methanol 39:1 as the eluent. The product was recrystallized from ether/n-hexane. There was obtained 0.84 g (60%) of 7-chloro-3-(5-diisopropylaminomethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one as whitish crystals; m.p. 153°-156°.

reactant | 7-chloro-3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 3.14 mmol, 1.20 g | ClC1=C(C=CC2=C1C(N(CC=1N2C=NC1C1=NOC(=N1)CCl)C)=O)F | C15H10Cl2FN5O2
reactant | diisopropylamine | 0.0166 mol, 1.59 g | C(C)(C)NC(C)C | C6H15N
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 7-chloro-3-(5-diisopropylaminomethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 0.84 g, 60% | ClC1=C(C=CC2=C1C(N(CC=1N2C=NC1C1=NOC(=N1)CN(C(C)C)C(C)C)C)=O)F | C21H24ClFN6O2
